US05567717
To a solution of trimethylphosphonoacetate (12.34 g; 61.6 mmol) in 500 mL of THF cooled to -78° C. under nitrogen with stirring, 136 mL (61.6 mmol) of 0.5M potassium bis(trimethylsilyl)amide was added dropwise over a 1/2 h period. The reaction mixture was stirred continuously at -78° C. for 1 hr. To the mixture was added 8.5 g (61.6 mmol) of 5-propyl-2-furancarboxaldehyde and 3 mL of THF over a 10 min period with stirring. After 1 h, stirring was stopped and the reaction mixture was allowed to warm to room temperature over a 2 h period. The reaction mixture was quenched with an aqueous solution of saturated ammonium chloride with stirring, and water was added to dissolve the precipitated salts into solution. The THF/aqueous solution was washed with ether (200 mL), and the aqueous layer was washed again with 100 mL of ether. The combined organic layer was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to yield 10.95 g (87.9%) of methyl 3-(5-propyl-2-furanyl)prop-2-enoate.

reactant | trimethylphosphonoacetate | 61.6 mmol, 12.34 g | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | potassium bis(trimethylsilyl)amide | 61.6 mmol, 0.5M, 136 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 5-propyl-2-furancarboxaldehyde | 61.6 mmol, 8.5 g | C(CC)C1=CC=C(O1)C=O | C8H10O2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | methyl 3-(5-propyl-2-furanyl)prop-2-enoate | 10.95 g, 87.9% | C(CC)C1=CC=C(O1)C=CC(=O)OC | C11H14O3
